US04945098
1-Octadecylaminocarbonyloxy-3-[6-(1-pyridazinio)hexanoyloxy]-2-methylenepropane bromide
1-Octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane (from Preparation 9) (0.28 g) was dissolved in toluene (5 ml). Pyridazine (0.18 ml) was added, and the mixture was stirred at 64° C. for 20 hours. The mixture was evaporated to dryness in vacuo to give the desired product.

reactant | 1-Octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane | 0.28 g | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCBr)=O)=C | C29H54BrNO4
reactant | Pyridazine | 0.18 ml | N1=NC=CC=C1 | C4H4N2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Octadecylaminocarbonyloxy-3-[6-(1-pyridazinio)hexanoyloxy]-2-methylenepropane bromide | [Br-].C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCC[N+]1=NC=CC=C1)=O)=C | InChI=1S/C33H57N3O4.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-25-34-33(38)40-30-31(2)29-39-32(37)24-19-18-22-27-36-28-23-21-26-35-36;/h21,23,26,28H,2-20,22,24-25,27,29-30H2,1H3;1H
